US07985862B2
5-chloro-2-imino-1-{2-[(1-methylethyl)sulfonyl]benzyl}-1,2-dihydropyridine-3-carboxamide hydrochloride
2-Cyano-2-(3,4-dichloro-5-oxo-2,5-dihydrofuran-2-yl)acetamide (2 g), 1-{2-[(1-methylethyl)sulfonyl]phenyl}methanamine hydrochloride (2.55 g) and potassium carbonate (2.94 g) were stirred in ethanol (50 ml) at 90° C. for 16 hr. The reaction mixture was poured into 1N aqueous sodium hydroxide solution, and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, and filtered. The solvent was evaporated under reduced pressure. The residue was purified by basic silica gel column chromatography (ethyl acetate:hexane=4:1). The obtained residue was dissolved in methanol, 4N hydrogen chloride-ethyl acetate solution (3 ml) was added, and the mixture was crystallized from methanol-ethyl acetate. The precipitated crystals were collected by filtration, and recrystallized to give the title compound (0.46 g).

reactant | 2-Cyano-2-(3,4-dichloro-5-oxo-2,5-dihydrofuran-2-yl)acetamide | 2 g | C(#N)C(C(=O)N)C1OC(C(=C1Cl)Cl)=O | C7H4Cl2N2O3
reactant | 1-{2-[(1-methylethyl)sulfonyl]phenyl}methanamine hydrochloride | 2.55 g | Cl.CC(C)S(=O)(=O)C1=C(C=CC=C1)CN
reactant | potassium carbonate | 2.94 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-chloro-2-imino-1-{2-[(1-methylethyl)sulfonyl]benzyl}-1,2-dihydropyridine-3-carboxamide hydrochloride | 0.46 g | Cl.ClC=1C=C(C(N(C1)CC1=C(C=CC=C1)S(=O)(=O)C(C)C)=N)C(=O)N | InChI=1S/C16H18ClN3O3S.ClH/c1-10(2)24(22,23)14-6-4-3-5-11(14)8-20-9-12(17)7-13(15(20)18)16(19)21;/h3-7,9-10,18H,8H2,1-2H3,(H2,19,21);1H
